US07189850B2
A solution of 2.16 g (5.12 mmol) 3-benzyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester in 43 ml ethyl acetate and 25 ml of a saturated solution of HCl in ether was stirred at ambient temperature for 90 min. The resulting suspension was filtered, the filtrate was dissolved in water and treated with saturated NaHCO3 and extracted with dichloromethane. The combined organic extracts were washed with brine, dried over MgSO4, filtered and evaporated to provide 3-benzyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one as a brown solid; MS (ISP): 322.5 MH+.

reactant | 3-benzyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 5.12 mmol, 2.16 g | C(C)(C)(C)OC(=O)N1CCC2(C(N(CN2C2=CC=CC=C2)CC2=CC=CC=C2)=O)CC1 | C25H31N3O3
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 43 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 3-benzyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | C(C1=CC=CC=C1)N1CN(C2(C1=O)CCNCC2)C2=CC=CC=C2 | C20H23N3O
